US08686184B2
(R)-3-Amino-4-(2-chloro-phenyl)-butyric Acid Ethyl Ester
(R)-3-Amino-4-(2-chloro-phenyl)-butyric acid (10 g, 50 mmol) was dissolved in absolute EtOH (250 mL). Concentrated HCl (2 mL) was added and the mixture was heated to reflux overnight. The product was vacuumed to dryness and azeotroped with toluene (4×50 mL), then placed under high vacuum overnight to yield the title compound as a white solid (10 g).

reactant | (R)-3-Amino-4-(2-chloro-phenyl)-butyric acid | 50 mmol, 10 g | N[C@@H](CC(=O)O)CC1=C(C=CC=C1)Cl | C10H12ClNO2
reactant | HCl | 2 mL | Cl | ClH
reactant | EtOH | 250 mL | CCO | C2H6O
product | (R)-3-Amino-4-(2-chloro-phenyl)-butyric Acid Ethyl Ester | 10 g | C(C)OC(C[C@@H](CC1=C(C=CC=C1)Cl)N)=O | C12H16ClNO2
